US07067517B2
Methyl-phenyl-carbamic acid 4-tetrazol-1-ylmethyl-phenyl ester
The title compound was prepared in 6% yield as an oil using methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester and tetrazole. 1H NMR (400 MHz; CDCl3): δ 3.42 (br s, 3H), 5.57 (s, 2H), 7.17 (br s, 2H), 7.26–7.42 (m, 7H), 8.52 (s, 1H); HPLC-MS: m/z=332.0 (M+23); Rt=3.24 min.

reactant | methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester | OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO3
reactant | tetrazole | N1N=NN=C1 | CH2N4
product | Methyl-phenyl-carbamic acid 4-tetrazol-1-ylmethyl-phenyl ester | 6% yield | N1(N=NN=C1)CC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H15N5O2
